US07241776B2
N-[1-(1H-1,2,3-benzotriazol-1-yl)-2,2-dimethylpropyl]-2-phenylacetamide
A suspension of phenylacetamide (2.9 g, 21.45 mmol), trimethylacetaldehyde (5.42 g, 63.00 mmol), and 1H-1,2,3-benzotriazole (2.56 g, 21.45 mmol) in toluene (75 mL) was treated with p-toluenesulfonic acid (0.200 g, 1.00 mmol). The solution was heated at reflux under Dean-Stark conditions for 10 hours, cooled gradually to ambient temperature. The mixture was concentrated under reduced pressure and purified by flash chromatography on silica gel (sequential elution with 10, 15, and 20% of ethyl acetate in methylene chloride) to provide 6.05 g of the title compound. MS (ESI+) m/z 323 (M+H)+.

reactant | phenylacetamide | 21.45 mmol, 2.9 g | C1(=CC=CC=C1)CC(=O)N | C8H9NO
reactant | trimethylacetaldehyde | 63.00 mmol, 5.42 g | CC(C=O)(C)C | C5H10O
reactant | 1H-1,2,3-benzotriazole | 21.45 mmol, 2.56 g | N1N=NC2=C1C=CC=C2 | C6H5N3
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 1.00 mmol, 0.200 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | N-[1-(1H-1,2,3-benzotriazol-1-yl)-2,2-dimethylpropyl]-2-phenylacetamide | 6.05 g | N1(N=NC2=C1C=CC=C2)C(C(C)(C)C)NC(CC2=CC=CC=C2)=O | C19H22N4O
